US05446189
A solution of 0.099 g (0.14 mmol) of 4-[[3,5-bis[(decylamino)carbonyl]phenyl](4-ethoxy-4-oxobutyl)amino]butanoic acid ethyl ester and 0.6 ml (0.6 mmol) of 1N NaOH in 4 ml of methanol waskept at room temperature for 17 hours. The solvent was removed at reduced pressure and the residue was dissolved in water and acidified with 0.04 mlof acetic acid. The precipitate was filtered and recrystallized from methanol to give 0.046 g (51% yield, mp 154°-156°) of 4-[[3,5-bis[(decylamino)carbonyl]phenyl](4-hydroxy-4-oxobutyl)amino]butanoic acid.

reactant | 4-[[3,5-bis[(decylamino)carbonyl]phenyl](4-ethoxy-4-oxobutyl)amino]butanoic acid ethyl ester | 0.14 mmol, 0.099 g | C(C)OC(CCCN(CCCC(=O)OCC)C1=CC(=CC(=C1)C(=O)NCCCCCCCCCC)C(=O)NCCCCCCCCCC)=O | C40H69N3O6
reactant | NaOH | 0.6 mmol, 1N, 0.6 ml | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 4-[[3,5-bis[(decylamino)carbonyl]phenyl](4-hydroxy-4-oxobutyl)amino]butanoic acid | 0.046 g, 51% yield | C(CCCCCCCCC)NC(=O)C=1C=C(C=C(C1)C(=O)NCCCCCCCCCC)N(CCCC(=O)O)CCCC(=O)O | C36H61N3O6
